US05451681
Preparation of 5-trifluoromethyl-2-mercaptobenzthiazole
Carbon disulphide (2.28 g, 30 mmol) was added dropwise over a period of 1 minute to a solution of potassium hydroxide (0.33 g, 5.9 mmol) in a mixture of water (2 ml) and methanol (5 ml), and the resulting yellow solution stirred for 5 minutes, followed by the addition of 2-nitro-4-trifluoromethyl thiophenol (1.10 g, 5 mmol). To this mixture was added dropwise over a period of 5 minutes a solution of potassium hydroxide (1.97 g, 35 mmol) and sodium dithionite (3.1 g, 15 mmol) in water (14 ml), so that the temperature did not exceed 40° C. The resultant orange mixture was stirred at 40°-50° C. for 2 hours. The reaction mixture was cooled to 10° C. and slowly acidified to pH 5-6 with concentrated HCl, and the mixture stirred for half an hour at this temperature. The off-white solid was washed with water and air dried to give the product. The yield was 0.81 g (70%).

reactant | Carbon disulphide | 30 mmol, 2.28 g | C(=S)=S | CS2
reactant | potassium hydroxide | 5.9 mmol, 0.33 g | [OH-].[K+]
reactant | 2-nitro-4-trifluoromethyl thiophenol | 5 mmol, 1.10 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)S | C7H4F3NO2S
reactant | potassium hydroxide | 35 mmol, 1.97 g | [OH-].[K+]
reactant | sodium dithionite | 15 mmol, 3.1 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 2 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 14 ml | O | H2O
product | 5-trifluoromethyl-2-mercaptobenzthiazole | FC(C=1C=CC2=C(N=C(S2)S)C1)(F)F | C8H4F3NS2
